US07557103B2
A. N-[4-(1-methylethyl)-6-methyl-pyridazin-3-yl]-2,2-dimethyl-propionamide
A solution of 2,2-dimethyl-N-(6-methyl-pyridazin-3-yl)-propionamide (4.00 g, 20.73 mmol) in THF (50 mL) is stirred at 0° C. 2.0 M iPrMgBr (46.6 mL, 93.26 mmol) is then added dropwise. The reaction is stirred at 0° C. for 30 min, then it is refluxed for 2 h. It is cooled to rt, poured into ice-H2O; sat. NH4Cl is added and extracted with EtOAc; dried with Na2SO4, filtered and concentrated. The crude material is dissolved in CH2Cl2 (100 mL), treated with 12 (5.8 g, 22.80 mmol) and stirred at rt for 2 h. The reaction is diluted with CH2Cl2 (100 mL), washed with 5% Na2SO3 (3×100 mL); dried with Na2SO4, filtered and concentrated. Purification of the crude material gives the title compound (1.38 g, 5.87 mmol, 28%). ES-MS (m/z): calcd for C13H21N3O (M+H)+: 236.3. found: 236.1.

reactant | 2,2-dimethyl-N-(6-methyl-pyridazin-3-yl)-propionamide | 20.73 mmol, 4.00 g | CC(C(=O)NC=1N=NC(=CC1)C)(C)C | C10H15N3O
reactant | iPrMgBr | 93.26 mmol, 2.0 M, 46.6 mL | C(C)(C)[Mg]Br
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | N-[4-(1-methylethyl)-6-methyl-pyridazin-3-yl]-2,2-dimethyl-propionamide | 5.87 mmol, 1.38 g, 28% | CC(C)C1=C(N=NC(=C1)C)NC(C(C)(C)C)=O | C13H21N3O
